US07420001B2
To 5-methyl-benzooxazole-2-carboxylic acid sodium salt (130 mg, 0.83 mmol) was added (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester (400 mg, 1.2 eq), BOP (430 mg, 1.2 eq), N,N-diisopropylethylamine (126 mg, 1.2 eq) and 4 mL of DMF. The mixture was stirred at room temperature overnight. The reaction mixture was poured into brine, and extracted with ethyl acetate. The combined organic solution was washed with brine and water. Removal of solvent gave the crude product, which was purified by column chromatography on silica gel to give 60 mg of (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester was obtained as a white solid.

reactant | 5-methyl-benzooxazole-2-carboxylic acid sodium salt | 0.83 mmol, 130 mg | [Na+].CC=1C=CC2=C(N=C(O2)C(=O)[O-])C1
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester | 400 mg, 1.2 eq | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C21H28N2O4S
reactant | BOP | 430 mg, 1.2 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 126 mg, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | brine | [Cl-].[Na+].O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester | 60 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(N1)C=C(C=C2)C)=O | C30H33N3O6S
